US05622976
A mixture of 5-(4-cyanophenyl)-3-formyl-1,2,4-oxadiazole (2.0 g), malonic acid (4.18 g) and piperidine (0.50 ml) in pyridine (20 ml) was refluxed for 1 hour. After cooling to room temperature, the mixture was evaporated in vacuo. The residue was dissolved in ethyl acetate, acidified to pH 2.0 with 4N hydrochloric acid washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was recrystallized from ethanol to give 3-{(E)-2-carboxyvinyl}-5-(4-cyanophenyl)-1,2,4-oxadiazole (1.2 g).

reactant | 5-(4-cyanophenyl)-3-formyl-1,2,4-oxadiazole | 2.0 g | C(#N)C1=CC=C(C=C1)C1=NC(=NO1)C=O | C10H5N3O2
reactant | malonic acid | 4.18 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.50 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-{(E)-2-carboxyvinyl}-5-(4-cyanophenyl)-1,2,4-oxadiazole | 1.2 g | C(=O)(O)/C=C/C1=NOC(=N1)C1=CC=C(C=C1)C#N | C12H7N3O3
